*** Sample netlist for a MESFET using the Curtice model (from fREEDA) ***

.options sparse=1
.analysis ac start=1GHz stop=10GHz num= 40 log=False 
.analysis tran tstep=5ps tstop=2ns

.save ac 3 4 
.save tran 3 4

ind:l1 1 2 l=1e-9 
cap:c1 2 3 c=20e-11 

ind:l2 3 7 l=15e-9  
res:r2 7 8 r=100

ind:l3 4 5 l=15e-9  
res:r3 5 6 r=10
cap:cload 4 9 c=20e-12 
res:rload 9 0 r=100.

vdc:vbias 8 0  vdc = -.15
vdc:vdrain 6 0 vdc = 3.
res:rin 11 1 r = 50
vsin:vs 11 0 mag = .2 freq = 5.1GHz

res:rs 123 0 r=1.144

*** Mesfet 
mesfetc:m1 4 3 123 a0 = .016542 a1 = .0500214 a2 = .02012 a3 = -.00806592 gama = 2.16505 tau = 5e-12 beta = -.0394707 isat = 1e-9 vbd = 15 nr = 10 ib0 = 1e-9 cgs0 = .52785e-12 cgd0 = .087e-12 

.end
